US09447093B2
3-phenyl-5-(4-methoxyphenyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine
To a solution of 3-phenyl-5-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (309 mg, 0.75 mmol) in a 3:1 toluene/ethanol mixture (24 ml) are added 2-methoxy-benzene boronic acid (125 mg, 0.83 mmol), K2CO3 (2.4 ml of 2 M solution in water, 4.5 mmol), Pd(PPh3)4 (1.5 mol %), and the mixture is heated at 85° C. for 2 hours under argon. The mixture is cooled to room temperature, concentrated under a vacuum and redissolved in a water/CH2Cl2 mixture. The aqueous phase is extracted several times with CH2Cl2 and the combined organic phases are dried on MgSO4. The solvent is evaporated under reduced pressure and the residue purified by flash chromatography on silica gel (100% CH2Cl2) to yield the purified product in the form of a colorless oil with a yield of 98%.

reactant | 3-phenyl-5-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.75 mmol, 309 mg | C1(=CC=CC=C1)C1=CN(C2=NC=C(C=C21)Br)S(=O)(=O)C2=CC=CC=C2 | C19H13BrN2O2S
reactant | 2-methoxy-benzene boronic acid | 0.83 mmol, 125 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | K2CO3 | 4.5 mmol, 2 M, 2.4 ml | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene ethanol | 24 ml | C1(=CC=CC=C1)C.C(C)O
product | 3-phenyl-5-(4-methoxyphenyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | yield of 98% | C1(=CC=CC=C1)C1=CN(C2=NC=C(C=C21)C2=CC=C(C=C2)OC)S(=O)(=O)C2=CC=CC=C2 | C26H20N2O3S
